US07338960B2
Ethyl [(4-{[1-(4′-chloro-4-biphenylyl)pentyl]oxy}-2-methylphenyl)oxy]acetate
To a solution of 1-(4′-chloro-4-biphenylyl)-1-pentanol (140 mg, 0.51 mmol) in dry THF (15 mL) under nitrogen at 0° C. (ice/water bath) was added nBu3P (250 μL, 1.02 mmol), followed by ethyl (4-hydroxy-2-methylphenoxy)acetate (110 mg, 0.52 mmol) and ADDP (260 mg, 1.03 mmol) portion-wise. After stirring the mixture for 18 hours at rt under nitrogen the solvent was removed under vacuum. The residue was partitioned between water and EtOAc and extracted with EtOAc (3×30 mL). The organic extract was separated and dried (MgSO4) and the solvent removed under vacuum. Purification by flash chromatography (silica) eluting with cyclohexane:EtOAc (9:1) afforded the title compound as a colourless gum (150 mg).

reactant | 1-(4′-chloro-4-biphenylyl)-1-pentanol | 0.51 mmol, 140 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCCC)O | C17H19ClO
reactant | nBu3P | 1.02 mmol, 250 μL | P(CCCC)(CCCC)CCCC | C12H27P
reactant | ethyl (4-hydroxy-2-methylphenoxy)acetate | 0.52 mmol, 110 mg | OC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H14O4
reactant | ADDP | 1.03 mmol, 260 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Ethyl [(4-{[1-(4′-chloro-4-biphenylyl)pentyl]oxy}-2-methylphenyl)oxy]acetate | 150 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCCC)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C28H31ClO4
